US08084611B2
(2) 3-Hydroxy-2,2-dimethyl-propionic acid tert-butyl ester
1M lithium tri-tert-butoxy-aluminohydride/tetrahydrofuran solution (14 ml) was added dropwise to a solution of tert-butyl methyl 2,2-dimethyl-malonate (1.12 g) in tetrahydrofuran (30 ml) under nitrogen atmosphere over 15 minutes and the mixture was heated to reflux for 2 hours. The reaction mixture was cooled to room temperature, a saturated ammonium chloride aq. solution and ethyl acetate were added and the organic layer was separated, washed with water and a saturated brine, dried over magnesium sulfate and concentrated in vacuo to give the titled compound (800 mg). MS (m/z): 175 [M+H]+.

reactant | lithium tri-tert-butoxy-aluminohydride tetrahydrofuran | 1M, 14 ml | C(C)(C)(C)O[AlH-](OC(C)(C)C)OC(C)(C)C.[Li+].O1CCCC1
reactant | tert-butyl methyl 2,2-dimethyl-malonate | 1.12 g | CC(C(=O)OC(C)(C)C)(C(=O)OC)C | C10H18O4
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-Hydroxy-2,2-dimethyl-propionic acid tert-butyl ester | 800 mg | C(C)(C)(C)OC(C(CO)(C)C)=O | C9H18O3
